US08242282B2
(iii) Synthesis of (2R)-4-(4-oxo-4-(tetrahydro-2H-pyran-2-yloxyamino)butyl)phenyl 3-(5-(benzyloxy)pyridin-2-yl)-2-(tert-butoxycarbonylamino)propanoate
(R)-3-(5-(Benzyloxy)pyridin-2-yl)-2-(tert-butoxycarbonylamino)propanoic acid (0.19 g, 0.5 mmol), 4-(4-hydroxyphenyl)-N-(tetrahydro-2H-pyran-2-yloxy)-butanamide (0.14 g, 0.5 mmol), and DMAP (0.06 g, 0.5 mmol) were added into DCM (10 mL) and stirred at 0° C. for 10 min. A solution of DCC (0.12 g, 0.6 mmol) in DCM (5 mL) was added to the above-mentioned solution dropwise. The mixture was stirred from 0° C. at room temperature for 1 h (monitored by TLC). The white solid was removed and the filtrated was then evaporated in vacuo. Ethyl acetoacetate was added and the solid was again removed. The solution was evaporated in vacuo. The residue was purified by chromatography (EA:Hex=1:5) to give the title compound.

reactant | (R)-3-(5-(Benzyloxy)pyridin-2-yl)-2-(tert-butoxycarbonylamino)propanoic acid | 0.5 mmol, 0.19 g | C(C1=CC=CC=C1)OC=1C=CC(=NC1)C[C@H](C(=O)O)NC(=O)OC(C)(C)C | C20H24N2O5
reactant | 4-(4-hydroxyphenyl)-N-(tetrahydro-2H-pyran-2-yloxy)-butanamide | 0.5 mmol, 0.14 g | OC1=CC=C(C=C1)CCCC(=O)NOC1OCCCC1 | C15H21NO4
reactant | DCC | 0.6 mmol, 0.12 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
catalyst | DMAP | 0.5 mmol, 0.06 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | (2R)-4-(4-oxo-4-(tetrahydro-2H-pyran-2-yloxyamino)butyl)phenyl 3-(5-(benzyloxy)pyridin-2-yl)-2-(tert-butoxycarbonylamino)propanoate | C(C1=CC=CC=C1)OC=1C=CC(=NC1)CC(C(=O)OC1=CC=C(C=C1)CCCC(NO[C@H]1OCCCC1)=O)NC(=O)OC(C)(C)C | C35H43N3O8
